US04845121
In a flame-dried flask were placed dry THF (4 ml) and diisopropylamine (1.21 g, 0.012 mol). n-Butyllithium (1.55M in hexane, 7.7 ml, 0.012 mol) was added dropwise at -10° C. under argon. After stirring for 0.5 h at 0° C., a solution of ethylphenylmethoxyacetate (2.33 g, 0.012 mol) in dry THF (4 ml) was added dropwise at -78° C. After one h methyl 5-chloro-2-phenylmethoxybenzoate (2.21 g, 0.008 mol) in dry THF (4 ml) was added. Stirring was continued for an additional 2 h at -78° C. and the reaction mixture was quenched with 2 ml of EtOH at -20° C. The quenched mixture was poured into 50 ml of 10% aqueous HCl solution and extracted with ether. The ether layer was washed with water, dried (Na2SO4), filtered and concentrated under reduced pressure affording a light yellow oil. Purification by flash chromatography (silica gel) using toluene-CHCl3 (5:1) as eluent afforded 1.96 g (56%) of ethyl 5-chloro-β-oxo-α,2-bis(phenylmethoxy)benzenepropanoate as white crystals (EtOH): mp 64°-65° C.; IR (KBr) 1735 (ester) and 1685 (conjugated carbonyl) cm-1 ; NMR (CDCl3, 90 MHz) δ 1.16 (t, 3H, OCH2CH3) 4.13 (q, 2H, OCH2CH3), 4.55 (dd, 1H, OCH2Ph, JAB =12.6 Hz), 4.60 (dd, 1H, OCH2Ph, JAB =12.6 Hz), 5.07 (s, 2H, OCH2Ph), 5.28 (s, 1H, CHCO2Et), 6.85 (d, 1H, ArH, J=8.9 Hz), 7.05-7.50 (m, 11H, ArH), 7.64 (d, 1H, ArH, J=2.5 Hz). Anal calcd. for C25H23ClO5 : C, 68.41; H, 5.28; Cl, 8.07. Found: C, 68.14; H, 5.28; Cl, 8.09.

reactant | diisopropylamine | 0.012 mol, 1.21 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 0.012 mol, 1.55M, 7.7 ml | C(CCC)[Li]
reactant | ethylphenylmethoxyacetate | 0.012 mol, 2.33 g | C(C)OC(COCC1=CC=CC=C1)=O | C11H14O3
reactant | methyl 5-chloro-2-phenylmethoxybenzoate | 0.008 mol, 2.21 g | ClC=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1 | C15H13ClO3
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | ethyl 5-chloro-β-oxo-α,2-bis(phenylmethoxy)benzenepropanoate | 1.96 g, 56% | ClC=1C=CC(=C(C1)C(C(C(=O)OCC)OCC1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C25H23ClO5
